US09029405B2
Step 2: 2-((2-methoxy-1-(4-(5-(2′-methyl-2-(trifluoromethyl)biphenyl-4-yl)-1,2,4-oxadiazol-3-yl)phenyl)ethyl)(methyl)amino)acetic acid
To tert-butyl N-[2-methoxy-1-(4-{5-[2′-methyl-2-(trifluoromethyl)biphenyl-4-yl]-1,2,4-oxadiazol-3-yl}phenyl)ethyl]-N-methylglycinate (0.078 g; 0.13 mmol) was added HCl solution in dioxane (4 M; 4 mL) and the reaction mixture stirred at ambient temperature for 18 hours and at 80° C. for 2 hour. The reaction mixture was allowed to cool and the solvent evaporated in vacuo. The residue was triturated with ether and dried under vacuum. The solid was dissolved in DMSO-d6 and evaporated to afford the title compound as a colourless gum (0.055 g, 75%). 1H NMR: (DMSO-d6/D2O, 400 MHz) δ 8.57 (1H, s), 8.54-8.52 (1H, d, J=8 Hz), 8.24 (2H, d, J=8 Hz), 7.79 (2H, d, J=8 Hz), 7.69 (1H, d, J=8 Hz), 7.40-7.37 (2H, m), 7.33-7.31 (1H, m), 7.19 (1H, d, J=7.2 Hz), 4.78 (1H, m), 4.13-4.10 (1H, m), 3.97 (1H, m), 3.87-3.83 (2H, m), 3.36 (3H, s), 2.75 (3H, s), 2.03 (3H, s). LC/MS (Method B): 526 (M+H)+. HPLC (Method C) Rt 9.13 min (Purity: 98.2%).

reactant | tert-butyl N-[2-methoxy-1-(4-{5-[2′-methyl-2-(trifluoromethyl)biphenyl-4-yl]-1,2,4-oxadiazol-3-yl}phenyl)ethyl]-N-methylglycinate | 0.13 mmol, 0.078 g | COCC(C1=CC=C(C=C1)C1=NOC(=N1)C1=CC(=C(C=C1)C1=C(C=CC=C1)C)C(F)(F)F)N(CC(=O)OC(C)(C)C)C | C32H34F3N3O4
reactant | HCl | Cl | ClH
solvent | dioxane | 4 M, 4 mL | O1CCOCC1 | C4H8O2
product | 2-((2-methoxy-1-(4-(5-(2′-methyl-2-(trifluoromethyl)biphenyl-4-yl)-1,2,4-oxadiazol-3-yl)phenyl)ethyl)(methyl)amino)acetic acid | 0.055 g, 75% | COCC(C1=CC=C(C=C1)C1=NOC(=N1)C1=CC(=C(C=C1)C1=C(C=CC=C1)C)C(F)(F)F)N(CC(=O)O)C | C28H26F3N3O4
